US07312330B2
A. 2-Amino-7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(4aH)-one
A suspension of ethyl N-benzyl-3-oxo-4-piperidine-carboxylate hydrochloride (2.98 g, 10 mmol) and guanidine hydrochloride (1.15 g, 12 mmol) in a solution of sodium methoxide in methanol (11.5 mL, 25% wt) was stirred at 100° C. in a sealed tube overnight before solvent was removed in vacuo. Residue was dissolved in water (10 mL) and was extracted by CHCl3 and i-PrOH (3:1, 5×80 mL), dried over sodium sulfate. Solvent was removed in vacuo, and the product was obtained as a light yellow powder (2.45 g).

reactant | ethyl N-benzyl-3-oxo-4-piperidine-carboxylate hydrochloride | 10 mmol, 2.98 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)C(=O)OCC)=O
reactant | guanidine hydrochloride | 12 mmol, 1.15 g | Cl.NC(=N)N
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | 11.5 mL | CO | CH4O
product | 2-Amino-7-benzyl-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4(4aH)-one | 2.45 g | NC1=NC(C2C(=N1)CN(CC2)CC2=CC=CC=C2)=O | C14H16N4O
